US05834486
d) 3-(N-BOC-ethylamino)-1-propanol
12.6 g (0.05773 mol) of di-tert-butyl dicarbonate are dissolved in 60 ml of methylene chloride and added dropwise in the course of 30 minutes, with stirring, to a solution of 5.5 g (0.05331 mol) of 3-ethylamino-1-propanol (J. Am. Chem. Soc. 80, 5203 (1958)) in 20 ml of methylene chloride. The reaction mixture is stirred at room temperature for 15 hours and is then concentrated by evaporation in vacuo. The oily residue is dissolved in 25 ml of methanol saturated with ammonia and the mixture is left to stand at room temperature for 15 minutes and is then concentrated by evaporation in vacuo at 40° C. The residue that is obtained is the crude title compound in the form of a colorless oil, Rf value=0.12 (silica gel/tert-butyl methyl ether).

reactant | di-tert-butyl dicarbonate | 0.05773 mol, 12.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-ethylamino-1-propanol | 0.05331 mol, 5.5 g | C(C)NCCCO | C5H13NO
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(N-BOC-ethylamino)-1-propanol | C(=O)(OC(C)(C)C)N(CCCO)CC | C10H21NO3
